US05401825
m-Tolyl Urea Styrene:
1.00 g (8.40 mmol) of p-aminostyrene (99% Tokyo Kasei) was added to a 250 ml round bottom flask containing 10 ml of chloroform. After ten minutes of mixing, 1.12 g (8.41 mmol) of m-tolyl isocyanate (99% Aldrich) was added dropwise. Within seconds, a white, pinkish precipitate formed. Chloroform (20 ml) was added to aid stirring. The precipitate was filtered to remove the reaction liquid, then washed with 20 ml of chloroform resulting in a white powder (166 g, 78% crude yield, mp=203° C.).

reactant | p-aminostyrene | 8.40 mmol, 1.00 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | m-tolyl isocyanate | 8.41 mmol, 1.12 g | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | Chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | m-Tolyl Urea Styrene | C=CC1=CC=CC=C1.C1(=CC(=CC=C1)NC(=O)N)C | InChI=1S/C8H10N2O.C8H8/c1-6-3-2-4-7(5-6)10-8(9)11;1-2-8-6-4-3-5-7-8/h2-5H,1H3,(H3,9,10,11);2-7H,1H2
